US05076835
Preparation of 5-[(2-Chloro-α,α,α-trifluoro-p-tolyl)oxy]-2-indolinone
A stirred mixture of 5-[(2-chloro-α,α,α-tri- fluoro-p-tolyl)oxy]-3-(methylthio)-2-indolinone (25.0 g, 0.067 mol) in a 5:1 mixture of methanol and dimethylformamide is heated to 50° C., under a nitrogen atmosphere, treated portionwise with an aqueous slurry of Raney nickel W-2 catalyst until disulfurization is complete as determined by chromatography, cooled to room temperature and filtered through a bed of diatomaceous earth. The filtrate is concentrated in vacuo, diluted with a 1:1 mixture of ethyl acetate and ether, washed with water, dried over MgSO4 and reconcentrated in vacuo to afford the title product as a tan solid, 16.5 g (75%), identified by 1HNMR analysis.

reactant | 5-[(2-chloro-α,α,α-tri- fluoro-p-tolyl)oxy]-3-(methylthio)-2-indolinone | 0.067 mol, 25.0 g | ClC1=C(C=CC(=C1)OC=1C=C2C(C(NC2=CC1)=O)SC)C(F)(F)F | C16H11ClF3NO2S
reactant | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-[(2-Chloro-α,α,α-trifluoro-p-tolyl)oxy]-2-indolinone | ClC1=C(C=CC(=C1)OC=1C=C2CC(NC2=CC1)=O)C(F)(F)F | C15H9ClF3NO2
